US08835449B2
6-(2,4-Dimethoxyphenyl)-1-(2-hydroxyethyl)-2-thioxo-2,3-dihydropyrimidin-4(1H)-one
To a solution of (Z)-methyl 3-(2,4-dimethoxyphenyl)-3-((2-hydroxyethyl)amino)acrylate (9.50 g, 33.77 mmol) in 2-MeTHF (100 mL) was added (trimethylsilyl)isothiocyanate (23.80 mL, 168.79 mmol), and the reaction mixture was heated at 85° C. After stirring overnight, the reaction mixture was cooled, extracted with an aqueous 1N NaOH solution (1×250 mL, then 1×50 mL), the combined aqueous layers were washed with CH2Cl2 (2×50 mL) and the aqueous phase acidified to pH 4 with concentrated HCl. The resulting solids were filtered, washed with water (2×50 mL) and dried under N2 overnight to give a light yellow powder. The product was dissolved in DMF (70 mL) at 90° C., and then water (80 mL) was added to this hot solution. After allowing to cool to room temperature and stirring overnight, the solids were collected by vacuum filtration, washed with water and dried under high vacuum to provide the title compound (6.7 g, 61%) as an off-white powder.

reactant | (Z)-methyl 3-(2,4-dimethoxyphenyl)-3-((2-hydroxyethyl)amino)acrylate | 33.77 mmol, 9.50 g | COC1=C(C=CC(=C1)OC)/C(=C/C(=O)OC)/NCCO | C14H19NO5
reactant | (trimethylsilyl)isothiocyanate | 168.79 mmol, 23.80 mL | C[Si](C)(C)N=C=S | C4H9NSSi
reactant | water | 80 mL | O | H2O
solvent | 2-MeTHF | 100 mL | CC1CCCO1 | C5H10O
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
product | 6-(2,4-Dimethoxyphenyl)-1-(2-hydroxyethyl)-2-thioxo-2,3-dihydropyrimidin-4(1H)-one | 6.7 g, 61% | COC1=C(C=CC(=C1)OC)C1=CC(NC(N1CCO)=S)=O | C14H16N2O4S
